US08389527B2
62B. Preparation of 6-((trans)-4-aminocyclohexylamino)-N-(2-fluoropyridin-4-yl)-8-((4-methoxybenzyl)(pyridin-2-yl)amino)imidazo[1,2-b]pyridazine-3-carboxamide
A solution of 6-chloro-N-(2-fluoropyridin-4-yl)-8-((4-methoxybenzyl)(pyridin-2-yl)amino)imidazo[1,2-b]pyridazine-3-carboxamide (60 mg, 0.119 mmol) and (trans)-cyclohexane-1,4-diamine (136 mg, 1.191 mmol) in NMP (1 mL) was heated at 90° C. for 8 h and then cooled to room temperature. The crude reaction mixture was purified by preparative HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) to obtain the pure product as a white solid, which was used without further purification.

reactant | 6-chloro-N-(2-fluoropyridin-4-yl)-8-((4-methoxybenzyl)(pyridin-2-yl)amino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.119 mmol, 60 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)F)N(C2=NC=CC=C2)CC2=CC=C(C=C2)OC | C25H19ClFN7O2
reactant | (trans)-cyclohexane-1,4-diamine | 1.191 mmol, 136 mg | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 6-((trans)-4-aminocyclohexylamino)-N-(2-fluoropyridin-4-yl)-8-((4-methoxybenzyl)(pyridin-2-yl)amino)imidazo[1,2-b]pyridazine-3-carboxamide | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)F)N(C2=NC=CC=C2)CC2=CC=C(C=C2)OC | C31H32FN9O2
